US05864039
3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine (1.00 g) as starting compound was reacted and treated in the same manner as in Example 1 using 4-chlorobenzoyl chloride (0.54 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.86 g) to give 4-amino-5-chloro-N-(1-(3-(4-chlorobenzoylamino)propyl)pyrrolidin-3-ylmethyl)-2-methoxybenzamide.

reactant | 3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine | 1.00 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCN | C13H27N3O2
reactant | 4-chlorobenzoyl chloride | 0.54 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.86 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-N-(1-(3-(4-chlorobenzoylamino)propyl)pyrrolidin-3-ylmethyl)-2-methoxybenzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCNC(C2=CC=C(C=C2)Cl)=O)C=C1Cl)OC | C23H28Cl2N4O3
